* C:\projects\digitizer.git\calc\adc-low-pass-filter.asc
XU1 N005 N001 v+ v- N001 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 N002 N001 9.31k
R2 N003 N002 21k
R3 N005 N004 1.91k
R4 N004 in 806
C1 N005 0 22n
C2 N003 0 22n
C3 out N002 120n
C4 N001 N004 3.3µ
V1 in 0 SINE(0 10 3000) AC 1.
V2 v+ 0 12
V3 0 v- 12
XU3 in cmp v+ v- cmp level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 N003 out v+ v- out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.tran 100m
.lib UniversalOpamps2.sub
.backanno
.end
